US05614544
[2-(2-Furyl)-5-methyl-4-oxazolylmethyl]triphenylphosphonium chloride and methyl 4-formylbenzoate were reacted in the same manner as in Reference Example 10 to yield methyl (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzoate, which was then recrystallized from ethyl acetate to yield colorless prisms having a melting point of 142°-143° C.

reactant | [2-(2-Furyl)-5-methyl-4-oxazolylmethyl]triphenylphosphonium chloride | [Cl-].O1C(=CC=C1)C=1OC(=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | methyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
product | methyl (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzoate | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C(=O)OC)C=C1)C | C18H15NO4
